US05006157
Preparation of ethyl 3-(N-phenylacetyl-α,α-dimethylbenzylamino)propionate
47.0 g (0.2 mol) of ethyl 3-(α,α-dimethylbenzylamino)propionate prepared by the method of Reference Example 16, was dissolved in 200 ml of acetone, and 30 g (0.22 mol) of potassium carbonate was added thereto. 31.0 g (0.2 mol) phenyl acetic acid chloride was dropwise added thereto at room temperature. After completion of the dropwise addition, the reaction solution was stirred for one day and night, and the reaction solvent was distilled off under reduced pressure. Water was added to the residue, and the mixture was extracted with ethyl acetate, washed with water and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 63.0 g (yield: 89.1%) of the desired compound.

reactant | ethyl 3-(α,α-dimethylbenzylamino)propionate | 0.2 mol, 47.0 g | CC(C1=CC=CC=C1)(C)NCCC(=O)OCC | C14H21NO2
reactant | potassium carbonate | 0.22 mol, 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenyl acetic acid chloride | 0.2 mol, 31.0 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | ethyl 3-(N-phenylacetyl-α,α-dimethylbenzylamino)propionate | 63.0 g, yield: 89.1% | C1(=CC=CC=C1)CC(=O)N(CCC(=O)OCC)C(C1=CC=CC=C1)(C)C | C22H27NO3
